US05397793
Preparation 2-(4-fluorophenyl)-4-phenyl-2-(3-pyridyl)butanenitrile (Compound 28)
In a 300 ml. 3 neck round bottomed flask under N2 was charged 0.9 g. of 60% NaH (1.5 eq., 0.0225 moles), washed 2 times with 15 ml hexanes, in 40 ml. DMF and 5.5 g. of 2-bromoethylbenzene (2.0 eq., 0.030 moles). This was followed by the addition of 3.18 g. of alpha-4-fluorophenyl-3-pyridylacetonitrile (1.0 eq., 0.015 moles) in 10 ml. DMF which resulted in an exotherm to 46° C. After 15 min. GLC analysis showed no unreacted nitrile. The reaction was quenched by the addition of 100 ml. water and then extracted with 250 ml. ether. The organic phase was washed twice with 100 mi. water, dried over MgSO4 and concentrated to give 5.0 g. of oil. The crude product was purified by flash chromatography with 2:3 EtOAc/hexane to give 3.7 g. of an oil (78.0 % yield).

reactant | NaH | 0.0225 moles, 1.5 eq. | [H-].[Na+]
reactant | 2-bromoethylbenzene | 0.030 moles, 2.0 eq. | BrCCC1=CC=CC=C1 | C8H9Br
reactant | alpha-4-fluorophenyl-3-pyridylacetonitrile | 0.015 moles, 1.0 eq. | FC1=CC=C(C=C1)C(C#N)C=1C=NC=CC1 | C13H9FN2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-4-phenyl-2-(3-pyridyl)butanenitrile | 78.0 % yield | FC1=CC=C(C=C1)C(C#N)(CCC1=CC=CC=C1)C=1C=NC=CC1 | C21H17FN2
